US06573293B2
5-(2-Oxo-6-phenyl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic Acid (2-diethylaminoethyl)methylamide
6-Phenyl-1,3-dihydroindol-2-one (209 mg, 1 mmol) was condensed with 5-formyl-1H-pyrrole-2-carboxylic acid (2-diethylaminoethyl)methylamide to give 277 mg (63%) of the title compound.

reactant | 6-Phenyl-1,3-dihydroindol-2-one | 1 mmol, 209 mg | C1(=CC=CC=C1)C1=CC=C2CC(NC2=C1)=O | C14H11NO
reactant | 5-formyl-1H-pyrrole-2-carboxylic acid (2-diethylaminoethyl)methylamide | C(C)N(CCN(C(=O)C=1NC(=CC1)C=O)C)CC | C13H21N3O2
product | 5-(2-Oxo-6-phenyl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic Acid (2-diethylaminoethyl)methylamide | 277 mg, 63% | C(C)N(CCN(C(=O)C=1NC(=CC1)C=C1C(NC2=CC(=CC=C12)C1=CC=CC=C1)=O)C)CC | C27H30N4O2
